US05476851
To an ice-colded suspension of NaH (0.062 g) in 20 ml of anhydrous THF under N2 is added 7-(5-chlorothien-2-yl)-1H-pyrazolo[3,4-g]quinoxaline (0.63 g). The orange-red mixture is stirred at the same temperature for 5 minutes, then iodomethane (0.374 g) is added dropwise to the orange-red mixture. The resulting mixture is stirred at room temperature overnight, then poured into water, extracted with methylene chloride, separated, dried (MeSO4), concentrated in vacuo to give a yellow solid. Purification is by chromatography eluting first with 5% ethylacetate in hexane, then gradually up to 30% ethylacetate in hexane to isolate 1-methyl-7-(5-chlorothien-2-yl)-1H-pyrazolo[3,4-g]quinoxaline (m.p. 225°-227° C.), then up to 10% hexane in ethylacetate to isolate 2-methyl-7-(5-chlorothien-2-yl)-2H-pyrazolo[3,4-g]quinoxaline (m.p. 222°-224° C.).

reactant | NaH | 0.062 g | [H-].[Na+]
reactant | 7-(5-chlorothien-2-yl)-1H-pyrazolo[3,4-g]quinoxaline | 0.63 g | ClC1=CC=C(S1)C=1C=NC=2C=C3C(=CC2N1)NN=C3 | C13H7ClN4S
reactant | iodomethane | 0.374 g | IC | CH3I
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-methyl-7-(5-chlorothien-2-yl)-1H-pyrazolo[3,4-g]quinoxaline | CN1N=CC=2C1=CC=1N=C(C=NC1C2)C=2SC(=CC2)Cl | C14H9ClN4S
